US08957064B2
6-(2,6-difluorophenyl)-5-(4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester
394.5 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine×2HCl (60% pure) are dissolved in 7 mL NMP. After addition of 0.3 mL triethylamine the reaction mixture is stirred for one hour. 350 mg (0.89 mmol) 6-(2,6-Difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester and 0.09 mL acetic acid are added. The reaction mixture is stirred overnight at room temperature. 207.4 mg (0.98 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 5 hours. The reaction mixture is treated with saturated NaHCO3. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 191.9 mg (34.6%) of the desired product are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine | 394.5 mg | N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | C11H13N5
reactant | 6-(2,6-Difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | 0.89 mmol, 350 mg | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)C2=CC=C(C=C2)C=O | C21H13F2N3O3
reactant | NaBH(OAc)3 | 0.98 mmol, 207.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 7 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.09 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 6-(2,6-difluorophenyl)-5-(4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H26F2N8O2
